US04284631
2-(2-Formamidothiazol-4-yl)-2-carbamoylmethoxyiminoacetic acid (syn isomer, 1.2 g.), N,N-dimethylformamide (0.768 g.), phosphoryl chloride (1.61 g.) and tetrahydrofuran (2.4 ml.) were treated in a similar manner to that of Example 1-(1) to give an activated acid solution. A suspension of 7-amino-3-cephem-4-carboxylic acid (0.89 g.) in a mixture of tetrahydrofuran (8.9 ml.), acetone (4.5 ml.) and water (4.5 ml.) was adjusted to pH 7 to 8 with 20% aqueous sodium carbonate. The activated acid solution was added to the solution at -5° to 0° C. while keeping at pH 7 to 8 and stirred at the same temperature for 30 minutes. The resultant solution was concentrated in vacuo, and water and ethyl acetate were added to the residue. The solution was adjusted to pH 2.5 and extracted with ethyl acetate. The extract was washed with a saturated aqueous solution of sodium chloride, dried over magnesium sulfate and concentrated in vacuo. The residue was pulverized with diethyl ether, collected by filtration and dried to give 7-[2-(2-formamidothiazol-4-yl)-2-cyanomethoxyiminoacetamido]-3-cephem-4-carboxylic acid (syn isomer, 0.95 g.).

reactant | 2-(2-Formamidothiazol-4-yl)-2-carbamoylmethoxyiminoacetic acid | 1.2 g | C(=O)NC=1SC=C(N1)C(C(=O)O)=NOCC(N)=O | C8H8N4O5S
reactant | phosphoryl chloride | 1.61 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 7-amino-3-cephem-4-carboxylic acid | 0.89 g | NC1[C@@H]2N(C(=CCS2)C(=O)O)C1=O | C7H8N2O3S
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | tetrahydrofuran | 8.9 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2.4 ml | O1CCCC1 | C4H8O
solvent | water | 4.5 ml | O | H2O
solvent | acetone | 4.5 ml | CC(=O)C | C3H6O
solvent | N,N-dimethylformamide | 0.768 g | CN(C=O)C | C3H7NO
product | 7-[2-(2-formamidothiazol-4-yl)-2-cyanomethoxyiminoacetamido]-3-cephem-4-carboxylic acid | 0.95 g | C(=O)NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=CCS2)C(=O)O)C1=O)=NOCC#N | C15H12N6O6S2
